US07479502B2
Proceeding as in Reference 19, but substituting N-acetyl-3-bromo-5-formyl-4-methoxy-benzenesulfonamide (335 mg, 1.0 mmol) and N-tert-butyl-3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)benzenesulfonamide (373 mg, 1.1 mmol), gave N-acetyl-N′-tert-butyl-5-formyl-6-methoxy-biphenyl-3,3′-disulfonamide (242 mg) as a pale yellow oil.

reactant | N-acetyl-3-bromo-5-formyl-4-methoxy-benzenesulfonamide | 1.0 mmol, 335 mg | C(C)(=O)NS(=O)(=O)C1=CC(=C(C(=C1)C=O)OC)Br | C10H10BrNO5S
reactant | N-tert-butyl-3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)benzenesulfonamide | 1.1 mmol, 373 mg | C(C)(C)(C)NS(=O)(=O)C1=CC(=CC=C1)B1OC(C(O1)(C)C)(C)C | C16H26BNO4S
product | N-acetyl-N′-tert-butyl-5-formyl-6-methoxy-biphenyl-3,3′-disulfonamide | 242 mg | C(C)(=O)NS(=O)(=O)C=1C=C(C(=C(C1)C=O)OC)C1=CC(=CC=C1)S(=O)(=O)NC(C)(C)C | C20H24N2O7S2
